US08859591B2
Methyl 3-(4-(4-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-yl)phenyl)pentan-2-yl)benzamido)propanoate (4.2 mg, 0.0080 mmol) was dissolved in 1:1 methanol:tetrahydrofuran (0.50 mL). 1N NaOH (0.024 mL) was added and the reaction was stirred at room temperature for 18 hours. The reaction was concentrated to dryness. The crude residue was taken up in water and acidified to pH=2 with 1N HCl. This solution was extracted three times with ethyl acetate. The combined organics were dried over magnesium sulfate, filtered, and concentrated to give (+/−)-3-(4-(4-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)pentan-2-yl)benzamido)propanoic acid (4.0 mg, 100%), as a white solid. 1H NMR (400 MHz, CD3OD, δ): 8.62 (s, 1H), 7.91 (s, 1H), 7.69-7.64 (m, 2H), 7.58-7.53 (m, 2H), 7.22-7.17 (m, 2H), 7.14-7.09 (m, 2H), 3.62-3.55 (m, 2H), 3.09-2.96 (m, 2H), 2.90-2.81 (m, 1H), 2.60 (t, J=6.9 Hz, 2H), 1.78-1.68 (m, 1H), 1.52 (ddd, J=13.7, 9.2, 4.9 Hz, 1H), 1.39-1.25 (m, 1H), 0.83 (dd, J=6.4, 4.7 Hz, 6H). MS (M+1): 488.4.

reactant | Methyl 3-(4-(4-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-yl)phenyl)pentan-2-yl)benzamido)propanoate | 0.0080 mmol, 4.2 mg | CC(CC(CC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)OC)C=C1)C | C27H30F3N3O3
reactant | tetrahydrofuran | 0.50 mL | O1CCCC1 | C4H8O
reactant | NaOH | 1N, 0.024 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | (+/−)-3-(4-(4-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)pentan-2-yl)benzamido)propanoic acid | 4.0 mg, 100% | CC(CC(CC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C | C26H28F3N3O3
